data/oMe_Silver.jsonl
{"reaction_id": "NR-241_1-CC(C)C_2-CC(C)C_3-c1ccc(S(=O)(=O)C)cc1_4-c1c(F)c(F)c(F)c(F)c1F","level": "medium","name": "Still-Gennari Reaction","reactants_smiles": ["CC(C)CC(=O)[H]","CC(C)COC(=O)CP(=O)(Oc1ccc(S(=O)(=O)C)cc1)(Oc1c(F)c(F)c(F)c(F)c1F)","[N-]([Si](C)(C)C)[Si](C)(C)C"],"products_smiles": ["CC(C)C/C=C\\C(=O)OCC(C)C"],"conditions": "","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC(C)COC(=O)[CH-]P(=O)(Oc1ccc(S(=O)(=O)C)cc1)(Oc1c(F)c(F)c(F)c(F)c1F)","step_weight": 0,"rationale": "The strong, non-nucleophilic base removes the acidic α-proton next to the phosphonate, stabilized by electron-withdrawing ester and phosphoryl groups via resonance and inductive effects."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CC(C)COC(=O)C(P(=O)(Oc1ccc(S(=O)(=O)C)cc1)(Oc1c(F)c(F)c(F)c(F)c1F))C([O-])CC(C)C","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the electrophilic carbonyl carbon of the aldehyde, driven by the strong polarization of the C=O bond and minimal steric hindrance."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CC(C)COC(=O)C1C(CC(C)C)OP1([O-])(Oc1ccc(S(=O)(=O)C)cc1)(Oc1c(F)c(F)c(F)c(F)c1F)","step_weight": 0,"rationale": "Intramolecular cyclization to the oxaphosphetane is favored due to proximity effects and stabilization from the phosphoryl oxygen, locking in the (Z)-geometry."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "CC(C)C/C=C\\C(=O)OCC(C)C","step_weight": 0,"rationale": "Collapse of the oxaphosphetane eliminates the phosphate group, a good leaving group stabilized by resonance, to form the thermodynamically favored (Z)-alkene ester."}],"description": "A strong, non-nucleophilic base deprotonates the electron-withdrawing phosphonate to form a stabilized carbanion, which adds to the aldehyde. Rapid cyclization to an oxaphosphetane intermediate ensures (Z)-selectivity, followed by elimination of the phosphate to yield the (Z)-alkene ester."}
{"reaction_id": "NR-337_1-C#N_2-OC(C)(C)C_3-C(C)(C)C_4-Cl_5-[N+](=O)[O-]","level": "medium","name": "Rosenmund-von Braun Reaction","reactants_smiles": ["c1(I)c(C#N)c(OC(C)(C)C)c(C(C)(C)C)c(Cl)c1[N+](=O)[O-]","N#C[Cu]"],"products_smiles": ["c1(C#N)c(C#N)c(OC(C)(C)C)c(C(C)(C)C)c(Cl)c1[N+](=O)[O-]"],"conditions": "High temperature","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "[Cu](I)(C#N)c1c(C#N)c(OC(C)(C)C)c(C(C)(C)C)c(Cl)c1[N+](=O)[O-]","step_weight": 0,"rationale": "High temperature promotes oxidative addition of the aryl iodide to Cu(I), facilitated by the weak C–I bond and good leaving group ability of iodide, forming a higher oxidation state Cu(III) intermediate with CN ligand."},{"step": 2,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(C#N)c(C#N)c(OC(C)(C)C)c(C(C)(C)C)c(Cl)c1[N+](=O)[O-]","step_weight": 0,"rationale": "Reductive elimination from Cu(III) is favored by the strong bond formation between the aryl group and the nucleophilic CN, releasing stable Cu(I) and driving the reaction thermodynamically."}],"description": "In the Rosenmund–von Braun reaction, aryl iodide undergoes oxidative addition to a copper(I) cyanide species at high temperature, forming an aryl–Cu(III)–CN intermediate. Subsequent reductive elimination yields the aryl nitrile, driven by strong C–CN bond formation and thermodynamic stability."}
